US08735578B2
1 g of 2-ethyl-4H-3,1-benzoxazin-4-one was added to 10 mL of monoethanolamine and the mixture was heated to 100° C. for 40 minutes. The heating element was then removed and the reaction medium was kept under agitation for about eight hours (end of the reaction). 100 mL were added to the reaction medium and the mixture was extracted with three portions of 25 mL of ethyl acetate. The organic phase was separated, and dried with magnesium sulfate and spin dried, yielding the 2-ethyl-3-(2-hydroxyethyl)quinazoline-4 (3H)-one compound as a yellowish oil, which solidified when left to rest at room temperature, which was used in the next stage, with no purification.

reactant | 2-ethyl-4H-3,1-benzoxazin-4-one | 1 g | C(C)C1=NC2=C(C(O1)=O)C=CC=C2 | C10H9NO2
reactant | monoethanolamine | 10 mL | C(O)CN | C2H7NO
product | 2-ethyl-3-(2-hydroxyethyl)quinazoline-4 (3H)-one | C(C)C1=NC2=CC=CC=C2C(N1CCO)=O | C12H14N2O2
